US08557805B2
N-Methyl-2-{2-[5-{[5-(methylsulfonyl)pyridin-2-yl]oxy}-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indol-2-yl]-4,5-dihydro-1,3-thiazol-5-yl}acetamide
A mixture of {2-[5-{[5-(methylsulfonyl)pyridin-2-yl]oxy}-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indol-2-yl]-4,5-dihydro-1,3-thiazol-5-yl}acetic acid (200 mg), 1H-1,2,3-benzotriazol-1-ol (80 mg), N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimidehydrochloride (110 mg), methylamine hydrochloride (50 mg), triethylamine (85 mg) and N,N-dimethylformamide (3 mL) was stirred at room temperature for 2.5 days. To the reaction mixture was added saturated aqueous sodium hydrogen carbonate and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over magnesium sulfate, filtered and concentrated under reduced pressure. The residue was subjected to silica gel chromatography, and eluted with ethyl acetate-methanol (100/0 to 95/5, volume ratio) to give colorless crystals. The crystals were recrystallized from acetone-hexane to give the title compound (110 mg, yield 52%) as colorless prism crystals.

reactant | {2-[5-{[5-(methylsulfonyl)pyridin-2-yl]oxy}-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indol-2-yl]-4,5-dihydro-1,3-thiazol-5-yl}acetic acid | 200 mg | CS(=O)(=O)C=1C=CC(=NC1)OC=1C=C2C=C(NC2=C(C1)OC1CCOCC1)C=1SC(CN1)CC(=O)O | C24H25N3O7S2
reactant | 1H-1,2,3-benzotriazol-1-ol | 80 mg | N1(N=NC2=C1C=CC=C2)O | C6H5N3O
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimidehydrochloride | 110 mg | Cl.CN(CCCN=C=NCC)C
reactant | methylamine hydrochloride | 50 mg | Cl.CN
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
solvent | triethylamine | 85 mg | C(C)N(CC)CC | C6H15N
product | N-Methyl-2-{2-[5-{[5-(methylsulfonyl)pyridin-2-yl]oxy}-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indol-2-yl]-4,5-dihydro-1,3-thiazol-5-yl}acetamide | 110 mg, yield 52% | CNC(CC1CN=C(S1)C=1NC2=C(C=C(C=C2C1)OC1=NC=C(C=C1)S(=O)(=O)C)OC1CCOCC1)=O | C25H28N4O6S2
